US05625080
Reaction of chloro-oxo-acetic acid 2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl ester prepared as Example 11 reacted in toluene at the reflux with 2,6-dimethylphenol gave after purification oxalic acid (2,6-dimethyl-phenyl) ester (2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl) ester (38% yield). Analysis C,70.6; H,4.1; C24H18O6 requires C,71.8; H,4.2%. Mass Spectrometry shows a molecular ion at 402.

reactant | chloro-oxo-acetic acid 2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl ester | O=C1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)OC(C(=O)Cl)=O | C16H9ClO5
reactant | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | oxalic acid (2,6-dimethyl-phenyl) ester (2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl) ester | 38% yield | O=C1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)OC(C(=O)OC2=C(C=CC=C2C)C)=O | C24H18O6
